US05366982
By using a similar procedure to that described in example 1 but with 1 g of ethyl 6-(3,5-diphenyl-phenoxy)hexanoate, 0.22 g of potassium hydroxide in pellets, 5 cc of water and 5 cc of ethanol as the starting material (2 hours; reflux), and after recrystallization in a mixture of 10 cc of n-hexane and 2 cc of ethyl acetate, 0.5 g (54%) of 6-(3,5-diphenyl-phenoxy)hexanoic acid was obtained as a white solid. (m.p.=104° C.)

reactant | ethyl 6-(3,5-diphenyl-phenoxy)hexanoate | 1 g | C1(=CC=CC=C1)C=1C=C(OCCCCCC(=O)OCC)C=C(C1)C1=CC=CC=C1 | C26H28O3
reactant | potassium hydroxide | 0.22 g | [OH-].[K+]
reactant | water | 5 cc | O | H2O
solvent | ethanol | 5 cc | C(C)O | C2H6O
product | 6-(3,5-diphenyl-phenoxy)hexanoic acid | 0.5 g, 54% | C1(=CC=CC=C1)C=1C=C(OCCCCCC(=O)O)C=C(C1)C1=CC=CC=C1 | C24H24O3
